US07786134B2
A mixture of 2.44 g (0.02 mol) of 4-methylbenzyl alcohol, 2.00 g (0.02 mol) of succinic acid anhydride, 6.50 g (0.02 mol) of cesium carbonate, and 150 mL of dioxane was stirred at reflux temperature for 4 hours. The mixture was cooled to room temperature and filtered to remove the solid portion. The solvent was removed under reduced pressure. The crude product was purified by column chromatography on silica gel (ethyl acetate-hexane) to provide 4.022 g of succinic acid mono-(4-methylbenzyl) ester (90.58%).

reactant | 4-methylbenzyl alcohol | 0.02 mol, 2.44 g | CC1=CC=C(CO)C=C1 | C8H10O
reactant | succinic acid anhydride | 0.02 mol, 2.00 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | cesium carbonate | 0.02 mol, 6.50 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | succinic acid mono-(4-methylbenzyl) ester | 4.022 g, 90.58% | CC1=CC=C(COC(CCC(=O)O)=O)C=C1 | C12H14O4
